US04863945
7,7-Dimethyl-6,7-dihydro-2-(pyridin-4-yl)-3H,5H-pyrrolo[2,3-f]benzimidazole
To a suspension of 3.5 g. lithium aluminium hydride in 100 ml. tetrahydrofuran is added dropwise at ambient temperature a solution of 5.3 g. (19 mmole) 7,7-dimethyl-6,7-dihydro-2-(pyridin-4-yl)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one. The reaction mixture is heated to reflux for 6 hours, decomposed with an aqueous solution of sodium chloride, extracted with dichloromethane and methanol, dried, evaporated and chromatographed on silica gel, 1.9 g. (38% of theory) of the title compound being eluted; m.p. 147°-149° C.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7,7-dimethyl-6,7-dihydro-2-(pyridin-4-yl)-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | 19 mmole | CC1(C(NC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)=O)C | C16H14N4O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7,7-Dimethyl-6,7-dihydro-2-(pyridin-4-yl)-3H,5H-pyrrolo[2,3-f]benzimidazole | CC1(CNC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)C | C16H16N4
